US07943636B2
Acetic anhydride (88 μL, 0.922 mmol) was added to a slurry of 4-[(4-amino-2-ethyl-2H-pyrazolo[3,4-c]quinolin-1-yl)methyl]piperidin-4-ol (0.300 g, 0.922 mmol) in chloroform (10 mL). After 16 hours, the solution was purified via automated flash chromatography eluting with a linear gradient of 2-25% CMA in chloroform. The residue was triturated in acetonitrile and isolated by filtration to provide 0.209 g of 1-acetyl-4-[(4-amino-2-ethyl-2H-pyrazolo[3,4-c]quinolin-1-yl)methyl]piperidin-4-ol as a white solid, mp 231-232.5° C.

reactant | Acetic anhydride | 0.922 mmol, 88 μL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-[(4-amino-2-ethyl-2H-pyrazolo[3,4-c]quinolin-1-yl)methyl]piperidin-4-ol | 0.922 mmol, 0.300 g | NC1=NC=2C=CC=CC2C=2C1=NN(C2CC2(CCNCC2)O)CC | C18H23N5O
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-acetyl-4-[(4-amino-2-ethyl-2H-pyrazolo[3,4-c]quinolin-1-yl)methyl]piperidin-4-ol | 0.209 g | C(C)(=O)N1CCC(CC1)(O)CC=1N(N=C2C(=NC=3C=CC=CC3C21)N)CC | C20H25N5O2
